.INCLUDE '32nm_HP.pm'

.PARAM Lmin=32n
.PARAM Wmin=32n
.PARAM Ldiff=64n
.PARAM supply=1.1
.temp 25

Mp1 drain1 gate1 source1 body1 pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mp2 drain2 gate2 source2 body2 pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

Vd2 	drain2	alimd   0
Vg2 	gate2	alimg2   0		
*Vs2 	source2	0   supply
Vb2 	body2 0  supply

Vd1 	drain1	source2  0
Vg1 	gate1	alimg1   0		
Vs1 	source1	0   supply
Vb1 	body1 0  supply

Vgg1 alimg1 0	0
Vgg2 alimg2 0   0
Vdd1  alimd  0   0

.CONTROL

let vol1 = 0
let sup = 1.1

while vol1 le sup

    alter Vgg1 = vol1

    let vol2 = 0
    while vol2 le sup

        alter Vgg2 = vol2
        if (vol1 < 0.5 & vol2 < 0.5)
            alter Vdd1 = 1.1
        else
            alter Vdd1 = 0
        end
        
        op
        print V(gate1) V(gate2) V(drain1) V(alimd) I(Vd2) I(Vg2) I(Vb2) I(Vd1) I(Vg1) I(Vs1) I(Vb1)
        print ""
        let vol2 = vol2 + 0.1
    end
    let vol1 = vol1 + 0.1
end
.ENDC
.END